US05786486
To 100 mg (0.62 mmol) of naphthoquinone, were added 10.0 mg of 10% palladium carbon, and 2 mL of anhydrous tetrahydrofuran. The mixture was stirred under a hydrogen atmosphere at room temperature for 2 hours. Thereto, 0.40 mL (3.03 mmol) of 2,4,6- collidine and 0.26 mg (1.55 mmol) of triflic anhydride were added with ice cooling, and the mixture was stirred under an argon atmosphere at room temperature for 2 hours. The reaction mixture was filtered, and the solvent was removed by distillation. The residue was dissolved in methylene chloride. The solution was washed successively with water, 1N hydrochloric acid, and saturated sodium chloride solution, and was dried over anhydrous sodium sulfate. The solvent was removed by distillation. The product was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 78.7 mg (30%) of 1,4-bis (((trifluoromethyl)sulfonyl)oxy)-naphthalene in a state of a colorless oil.

reactant | naphthoquinone | 0.62 mmol, 100 mg | C=1C=CC2=C(C1)C(=O)C=CC2=O | C10H6O2
reactant | 2,4,6- collidine | 3.03 mmol, 0.40 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | triflic anhydride | 1.55 mmol, 0.26 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | palladium carbon | 10.0 mg | [C].[Pd]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1,4-bis (((trifluoromethyl)sulfonyl)oxy)-naphthalene | 78.7 mg, 30% | FC(S(=O)(=O)OC1=CC=C(C2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)(F)F | C12H6F6O6S2
